US06281227B1
6-Chloro-benzo[b]thiophene-2-sulfonic acid [2-oxo-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-pyrrolidin-3-(S)-yl]-amide
Palladium on carbon (0.01 g) is added to a solution of 6-chloro-benzo[b]thiophene-2-sulfonic acid [1-(4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide in 95% ethanol (5 mL) and charged with H2 gas. The mixture is heated at 65° C. overnight then cooled to room temperature and filtered through Celite. The solvent is removed and the crude product is purified by RP-HPLC eluting with a gradient of 10% CH3CN/H2O (0.1% TFA) to 100% CH3CN. The appropriate product fractions are lyophilized to give the title compound as a white solid.

reactant | 6-chloro-benzo[b]thiophene-2-sulfonic acid [1-(4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide | ClC1=NC=CC2=C1C=C(N2)CN2C([C@H](CC2)NS(=O)(=O)C2=CC1=C(S2)C=C(C=C1)Cl)=O | C20H16Cl2N4O3S2
catalyst | Palladium on carbon | 0.01 g | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 6-Chloro-benzo[b]thiophene-2-sulfonic acid [2-oxo-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-pyrrolidin-3-(S)-yl]-amide | O=C1N(CC[C@@H]1NS(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)CC2=CC=1C=NC=CC1N2 | C20H17ClN4O3S2
